US05591762
4'-[[2-n-Butyl-4-methyl-7-[5-(tetrahydrobenzimidazol-1-yl)-pentyloxy]-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.-butyl 4'-[[2-n-butyl-4-methyl-7-[5-(tetrahydrobenzimidazol-1-yl)-pentyloxy]-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.-butyl 4'-[[2-n-butyl-4-methyl-7-[5-(tetrahydrobenzimidazol-1-yl)-pentyloxy]-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)OCCCCCN2CNC1C2=CC=CC1 | C42H52N4O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[[2-n-Butyl-4-methyl-7-[5-(tetrahydrobenzimidazol-1-yl)-pentyloxy]-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C(=CC=C2C)OCCCCCN2CNC1C2=CC=CC1 | C38H44N4O3
